US07981874B2
tert-Butyl 4-[2-(4-oxido-4-phenyl-1,4-azaphosphinan-1-yl)ethyl]benzoate.
4-Phenyl-1,4-azaphosphinane 4-oxide hydrochloride (200 mg, 0.863 mmol), tert-butyl 4-(2-bromoethyl)benzoate (246 mg, 0.863 mmol), and K2CO3 (358 mg, 2.59 mmol) were combined in MeCN (10 mL) and stirred at reflux overnight. The reaction was cooled, diluted with EtOAc, washed with water and brine, dried (MgSO4), and evaporated. Flash chromatography (0-10% MeOH/CH2Cl2) afforded the title compound as a colorless solid. 1H NMR (CDCl3, 600 MHz) δ 7.88 (d, J=8.4 Hz, 2H), 7.76-7.71 (m, 2H), 7.54-7.45 (m, 3H), 7.21 (d, J=8.2 Hz, 2H), 3.09-2.99 (m, 4H), 2.85-2.80 (m, 2H), 2.77-2.73 (m, 2H), 2.19-2.11 (m, 2H), 2.08-1.98 (m, 2H), 1.55 (s, 9H). MS: cal'd 400 (MH+), exp 400 (MH+).

reactant | 4-Phenyl-1,4-azaphosphinane 4-oxide hydrochloride | 0.863 mmol, 200 mg | Cl.C1(=CC=CC=C1)P1(CCNCC1)=O
reactant | tert-butyl 4-(2-bromoethyl)benzoate | 0.863 mmol, 246 mg | BrCCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C13H17BrO2
reactant | K2CO3 | 2.59 mmol, 358 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 10 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-Butyl 4-[2-(4-oxido-4-phenyl-1,4-azaphosphinan-1-yl)ethyl]benzoate | O=P1(CCN(CC1)CCC1=CC=C(C(=O)OC(C)(C)C)C=C1)C1=CC=CC=C1 | C23H30NO3P
